US04370340
A mixture of ethyl 2-oxo-5-chloro-6-amino-3-benzothiazolineacetate (347.8 g) and conc.hydrochloric acid (1040 ml) was stirred for 30 minutes at ambient temperature. After the resultant mixture was cooled to 2° C., a solution of sodium nitrite (88.3 g) in water (120 ml) was added dropwise thereto below 5° C. in the course of 40 minutes. The mixture was stirred for 20 minutes at 0° C. To the resultant mixture was added benzene (5.2 l) in the course of 30 minutes. After the reaction mixture was stirred for an hour and 40 minutes under ice-cooling, a solution of sodium acetate.3H2O (1.56 kg) in water (3.6 l) was added dropwise thereto under ice-cooling in the course of an hour. The mixture was stirred overnight at ambient temperature. The organic layer was separated, washed with water and dried over anhydrous magnesium sulfate, concentrated under reduced pressure to give a residue, which was recrystallized from ethanol to give ethyl 2-oxo-5-chloro-6-phenyl-3-benzothiazolineacetate (311.5 g).

reactant | ethyl 2-oxo-5-chloro-6-amino-3-benzothiazolineacetate | 347.8 g | O=C1SC2=C(N1CC(=O)OCC)C=C(C(=C2)N)Cl | C11H11ClN2O3S
reactant | hydrochloric acid | 1040 ml | Cl | ClH
reactant | sodium nitrite | 88.3 g | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | 120 ml | O | H2O
solvent | water | 3.6 l | O | H2O
solvent | benzene | 5.2 l | C1=CC=CC=C1 | C6H6
product | ethyl 2-oxo-5-chloro-6-phenyl-3-benzothiazolineacetate | 311.5 g | O=C1SC2=C(N1CC(=O)OCC)C=C(C(=C2)C2=CC=CC=C2)Cl | C17H14ClNO3S
